US05478851
2-(N-(5-Chloro-2-methoxybenzoyl)amino)ethanol
5-Chloro-2-methoxybenzoyl chloride (5.0 g) was added to a vigorously stirred mixture of 2-aminoethanol (10.12 g, 10 ml) and sodium hydroxide solution (1M, 100 ml). Stirring was continued for 2 hours at room temperature, then dilute hydrochloric acid (10% v/v, 100 ml) was added and the mixture extracted with dichloromethane (3×200 ml). The combined dichloromethane layers were dried (MgSO4) and evaporated, and the resulting oil chromatographed on silica gel with 1% methanol in dichloromethane as solvent to afford the title compound as an oil.

reactant | 5-Chloro-2-methoxybenzoyl chloride | 5.0 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
reactant | 2-aminoethanol | 10 ml, 10.12 g | NCCO | C2H7NO
reactant | sodium hydroxide | 1M, 100 ml | [OH-].[Na+]
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-(N-(5-Chloro-2-methoxybenzoyl)amino)ethanol | ClC=1C=CC(=C(C(=O)NCCO)C1)OC | C10H12ClNO3
